US04628057
(1RS,3SR)-trans-1-Ethyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 43, (1RS,3SR)-trans-1-ethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (733 mg), triethylamine (707 mg), carbon disulfide (305 mg), methyl iodide (568 mg), methanol (20 ml) and water (2 ml) are reacted and treated. The product is recrystallized from aqueous ethanol to give the title compound (700 mg, 70%) as colorless prisms, m.p. 155°-157° C.

reactant | (1RS,3SR)-trans-1-ethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 733 mg | C(C)[C@@H]1N[C@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C14H16N2O2
reactant | triethylamine | 707 mg | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 305 mg | C(=S)=S | CS2
reactant | methyl iodide | 568 mg | CI | CH3I
solvent | water | 2 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | (1RS,3SR)-trans-1-Ethyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 700 mg, 70% | C(C)[C@@H]1N([C@H](CC=2C3=CC=CC=C3NC12)C(=O)O)C(=S)SC | C16H18N2O2S2
